US07129260B2
5-bromo-N-phenyl-1H-benzimidazol-2-amine
Aniline (0.49 mL, 5.4 mmol) was added dropwise to a 0° C. solution of thiocarbonyldiimidazole(1.02 g, 5.7 mmol) in pyridine (20 mL). The resulting mixture was stirred at 0° C. for 1.5 hours, treated with 2-amino-4-bromoaniline (1 g, 5.3 mmol), stirred overnight at room temperature, then treated with EDCI (1.23 g, 6.4 mmol) and heated to 50° C. for 24 hours. The reaction was concentrated and the residue was purified by silica gel chromatography eluting with 20–75% ethyl acetate/hexanes to give 375 mg (25%) of the desired product. MS (ESI(+)) m/e 288 (M+H)+.

reactant | Aniline | 5.4 mmol, 0.49 mL | NC1=CC=CC=C1 | C6H7N
reactant | thiocarbonyldiimidazole | 5.7 mmol, 1.02 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 2-amino-4-bromoaniline | 5.3 mmol, 1 g | NC1=C(N)C=CC(=C1)Br | C6H7BrN2
reactant | EDCI | 6.4 mmol, 1.23 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5-bromo-N-phenyl-1H-benzimidazol-2-amine | 375 mg, 25% | BrC1=CC2=C(NC(=N2)NC2=CC=CC=C2)C=C1 | C13H10BrN3
